US07312241B2
Bis-benzo[1,3]dioxol-5-yl-methanone (2.41 g, 8.92 mmol), cyanomethylphosphonic acid diethyl ester (2.81 ml, 17.84 mmol) in anhydrous THF (10 ml), and lithium bis (trimethylsilyl)amide (1.0 M solution in THF, 17.84 ml, 17.84 mmol) were treated in the same manner as described above for the synthesis of 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile. The crude material was purified via flash column chromatography (10% EtOAc in hexane gradient to 50% EtOAc in hexane in about 40 min.) to give 3,3-bis-benzo[1,3]dioxol-5-yl-acrylonitrile as an off-white solid (2.11 g, 81%): mp, 126-128° C.; 1HNMR (DMSO-d6) δ 7.07-7.03 (2 ds, J=1.84 and J=8 Hz, 2H, Ar), 6.94 (d, J=8 Hz, 1H, Ar), 6.90 (d, J=1 Hz, 1H, Ar), 6.86 (dd, J=1.76 and J=7 Hz, 1H, Ar), 6.74 (dd, J=1.82 and J=8 Hz, 1H, Ar), 6.13 (s, 1H, double bond proton), 6.12 (s, 2H, CH2), 6.10 (s, 2H, CH2); 13C NMR (DMSO-d6) δ 160.8, 149.4, 148.4, 147.8, 147.3, 132.2, 130.9, 123.8, 123.6, 118.5, 109.4, 108.4, 108.2, 107.7, 101.8, 101.6, 93.8. Anal. Calcd. For C17H11NO4: C, 69.62; H, 3.78; N, 4.78. Found: C, 68.43; H, 3.97; N, 4.37.

reactant | Bis-benzo[1,3]dioxol-5-yl-methanone | 8.92 mmol, 2.41 g | O1COC2=C1C=CC(=C2)C(=O)C2=CC1=C(OCO1)C=C2 | C15H10O5
reactant | cyanomethylphosphonic acid diethyl ester | 17.84 mmol, 2.81 ml | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis (trimethylsilyl)amide | 17.84 mmol, 1.0 M, 17.84 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile | O1CCOC2=C1C=CC(=C2)C(=CC#N)C2=CC(=CC(=C2)OC)OC | C19H17NO4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3,3-bis-benzo[1,3]dioxol-5-yl-acrylonitrile | 2.11 g, 81% | O1COC2=C1C=CC(=C2)C(=CC#N)C2=CC1=C(OCO1)C=C2 | C17H11NO4
